US07790747B2
Using general procedure A, 3-methylbenzylamine (30 μL, 0.23 mmol) and 4,6-dimethylpyrimidine-5-carboxylic acid [3-(4-oxo-piperidin-1-yl)-butyl]-amide (66 mg, 0.22 mmol) afforded 4,6-dimethyl-pyrimidine-5-carboxylic acid {3-[4-(3-methyl-benzylamino)-piperidin-1-yl]-butyl}-amide (65 mg, 72%).

reactant | 3-methylbenzylamine | 0.23 mmol, 30 μL | CC=1C=C(CN)C=CC1 | C8H11N
reactant | 4,6-dimethylpyrimidine-5-carboxylic acid [3-(4-oxo-piperidin-1-yl)-butyl]-amide | 0.22 mmol, 66 mg | O=C1CCN(CC1)C(CCNC(=O)C=1C(=NC=NC1C)C)C | C16H24N4O2
product | 4,6-dimethyl-pyrimidine-5-carboxylic acid {3-[4-(3-methyl-benzylamino)-piperidin-1-yl]-butyl}-amide | 65 mg, 72% | CC=1C=C(CNC2CCN(CC2)C(CCNC(=O)C=2C(=NC=NC2C)C)C)C=CC1 | C24H35N5O
